### PR TITLE
TokenAlgebra Example: ValueSet

### PR DESCRIPTION
**Pull request by williamdemeo**
# Description

This PR provides a new module called Ledger.TokenAlgebra.ValueSet which uses the new functionality in TotalMap to define a token algebra using the Theory record of the Axiom.Set module.

To implement a token algebra using Set and modeling the value type as a total function on a given X : Set A I needed to add some functionality to TotalMap (and similar functionality to a new module, called TotalMapOn which restricts maps to the set X, but I have since abandoned the approach using TotalMapOn as I couldn't get it to work without adding a dependently typed version of the replacement axiom of the Set module, and we don't want to add axioms at this point for a number of reasons; this is why the comments below are crossed out).

The new functionality in TotalMap is part of a separate PR which should be merged before this one.

This PR accomplishes the first task of issue #56.

# Checklist

- [X] Commit sequence broadly makes sense and commits have useful messages
- [X] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [X] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Prelude.agda [hunk 1]
```diff
@@ -86,7 +86,7 @@ open import Axiom.Set.Map th public
   renaming (Map to _⇀_)
 
 open import Axiom.Set.TotalMap th public
-open import Axiom.Set.TotalMapOn th public
+open import Axiom.Set.TotalMapOn th
```
Comment (williamdemeo) [inline src/Ledger/Prelude.agda:89]: This line was inserted just to make sure the build tests don't fail with error "TotalMapOn.agdai" doesn't exist.  (But it need not be inherited by modules that import this one, so no need for `public`.)

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 2]
```diff
@@ -0,0 +1,222 @@
...
+  isSemigrp .isMagma .∙-cong {u}{v}{x}{y}  = ⊕-cong {u}{v}{x}{y} -- (broken inference)
+  isSemigrp .assoc                         = ⊕-assoc
+
+  open IsMonoid
+  ≋-⊕-ι-isMonoid : IsMonoid _≋_ _⊕_ ι
+  ≋-⊕-ι-isMonoid .isSemigroup  = isSemigrp
+  ≋-⊕-ι-isMonoid .identity     = ι-identity
+\end{code}
+
+We are now in a position to define the commutative monoid.
```
Comment (williamdemeo) [inline src/Ledger/TokenAlgebra/ValueSet.lagda:157]: TODO: possibly add some more explanatory prose about the `Value-TokenAlgebra` example.

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 3]
```diff
@@ -0,0 +1,221 @@
...
+  _≋_ : stdlib.Rel (AssetId ⇒ Quantity) 0ℓ
+  u ≋ v = ∀{aa} → (lookup u) aa ≡ (lookup v) aa
+
+  ≋-isEquivalence : IsEquivalence {0ℓ} _≋_
+  ≋-isEquivalence = record { refl = ≡.refl ; sym = λ x → ≡.sym x ; trans = λ x y → ≡.trans x y }
+
+  ⊕-cong : Algebra.Congruent₂ _≋_ _⊕_
+  ⊕-cong {x}{y}{u}{v} x≋y u≋v {a} = begin
+    lookup (x ⊕ u) a         ≡⟨ ⊕-lemma x u ⟩
+    lookup x a + lookup u a  ≡⟨ cong (λ w → w + lookup u a) x≋y ⟩
```
Comment (WhatisRT) [inline src/Ledger/TokenAlgebra/ValueSet.lagda:112]: You can use `cong₂ _+_ x≋y u≋v` to rewrite both at the same time

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 4]
```diff
@@ -0,0 +1,221 @@
...
+  ⊕-comm u v {aa} = begin
+    lookup (u ⊕ v) aa          ≡⟨ ⊕-lemma u v ⟩
+    lookup u aa + lookup v aa  ≡⟨ +-comm (lookup u aa) (lookup v aa) ⟩
+    lookup v aa + lookup u aa  ≡⟨ ≡.sym (⊕-lemma v u) ⟩
+    lookup (v ⊕ u) aa          ∎
+
+  ⊕-assoc : Algebra.Associative _≋_ _⊕_
+  ⊕-assoc x y z {a} = begin
+    lookup ((x ⊕ y) ⊕ z) a                  ≡⟨ ⊕-lemma (x ⊕ y) z ⟩
+    lookup (x ⊕ y) a + lookup z a           ≡⟨ cong (λ w → w + lookup z a) (⊕-lemma x y) ⟩
```
Comment (WhatisRT) [inline src/Ledger/TokenAlgebra/ValueSet.lagda:127]:
```suggestion
    lookup (x ⊕ y) a + lookup z a           ≡⟨ cong (_+ lookup z a) (⊕-lemma x y) ⟩
```
You can make a similar simplification lots of times below.

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 5]
```diff
@@ -0,0 +1,221 @@
...
+  Vcm .Carrier                        = AssetId ⇒ Quantity
+  Vcm ._≈_                            = _≋_
+  Vcm ._⋆_                            = _⊕_
+  Vcm .ε                              = ι
+  Vcm .isCommutativeMonoid .isMonoid  = ≋-⊕-ι-isMonoid
+  Vcm .isCommutativeMonoid .comm      = ⊕-comm
+
+  Value-TokenAlgebra :  (specialPolicy : PolicyId)
+                        (specialAsset : AssetName)
+                        (policies : AssetId ⇒ Quantity → ℙ PolicyId)
```
Comment (WhatisRT) [inline src/Ledger/TokenAlgebra/ValueSet.lagda:171]: `policies` should just project out the `PolicyId`s from the domain, i.e. it shouldn't be a parameter here

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 6]
```diff
@@ -0,0 +1,221 @@
...
+    totalMap↠coin tm = lookup tm specId
+
+    coin↪totalMap : Coin → AssetId ⇒ Quantity
+    coin↪totalMap c = update specId c zeroMap
+
+    leq : AssetId ⇒ Quantity → AssetId ⇒ Quantity → Type
+    leq = λ u v → ∀ {a}{p}{q} → lookup u (a , p) ≤ lookup v (a , q)
+
+    compose-to-id : totalMap↠coin ∘ coin↪totalMap ≗ id
+    compose-to-id _ = lookup-update-id zeroMap where open LookupUpdate {X = X}{specId}{⋁A}
```
Comment (WhatisRT) [inline src/Ledger/TokenAlgebra/ValueSet.lagda:209]:
```suggestion
    compose-to-id _ = lookup-update-id zeroMap where open LookupUpdate {X = X} {specId} {⋁A}
```
Also, the `where` block should be on a new line, or use `let` if you want to do it in the same line instead.

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 7]
```diff
@@ -0,0 +1,221 @@
...
+  Vcm ._⋆_                            = _⊕_
+  Vcm .ε                              = ι
+  Vcm .isCommutativeMonoid .isMonoid  = ≋-⊕-ι-isMonoid
+  Vcm .isCommutativeMonoid .comm      = ⊕-comm
+
+  Value-TokenAlgebra :  (specialPolicy : PolicyId)
+                        (specialAsset : AssetName)
+                        (policies : AssetId ⇒ Quantity → ℙ PolicyId)
+                        (size : AssetId ⇒ Quantity → ℕ)
+                        {decTot : DecEq (AssetId ⇒ Quantity)}
```
Comment (WhatisRT) [inline src/Ledger/TokenAlgebra/ValueSet.lagda:173]: We may need to do something about this, since we can't ever supply this constructively. I think we need to require that the equivalence relation in `Vcm` is decidable, but I don't know how this affects everything else...

**Review by WhatisRT — CHANGES_REQUESTED** [review]
There's a bit of cleanup still to do, but looks mostly good!

File: src/Ledger/TokenAlgebra/ValueSet.lagda (hunk 7 above)
Comment (williamdemeo) [reply src/Ledger/TokenAlgebra/ValueSet.lagda:173]: Okay, thanks for pointing this out.  I'll have to think about how to resolve it.

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 8]
```diff
@@ -0,0 +1,221 @@
...
+open CommutativeMonoid renaming (_∙_ to _⋆_) hiding (refl ; sym ; trans)
+
+AssetId : Type
+AssetId = PolicyId × AssetName
+
+module _ {X : ℙ AssetId} {⋁A : isMaximal X} where
+
+  open _⇒_
+  open ≡-Reasoning
+  open FunTot {AssetId}{X}{⋁A}
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/TokenAlgebra/ValueSet.lagda:70]: Okay, I'll make `X` and `⋁A` explicit.  (`AssetId` can be infered.)

File: src/Ledger/TokenAlgebra/ValueSet.lagda (hunk 7 above)
Comment (williamdemeo) [reply src/Ledger/TokenAlgebra/ValueSet.lagda:173]: I think this is something we should leave for future consideration.

File: src/Ledger/TokenAlgebra/ValueSet.lagda [hunk 9]
```diff
@@ -0,0 +1,221 @@
...
+  ι-lem1 : ∀{a} → (a , lookup ι a) ∈ rel ι
+  ι-lem1 = lookup∈rel ι
+
+  ι-lem2 : ∀{a} → (a , 0) ∈ rel ι
+  ι-lem2 = ≡→∈ ι-lem1 (Σ-≡,≡→≡ (≡.refl , ι-lem0))
+
+  ι-lem3 : ∀{a : AssetId} → lookup ι a ≡ 0
+  ι-lem3 = (left-unique-rel ι) ι-lem1 ι-lem2
+
+  _≋_ : stdlib.Rel (AssetId ⇒ Quantity) 0ℓ
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/TokenAlgebra/ValueSet.lagda:103]: I think we can leave this for future improvements.

**Review by WhatisRT — APPROVED** [review]
LGTM
